data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[C:4]1(=[CH2:13])[N:24]([CH3:8])[c:21]2[cH:11][cH:17][cH:18][cH:12][c:20]2[N:25]1[CH3:9].[O:1]=[S:36](=[O:2])([c:23]1[cH:5][cH:15][c:29]([CH3:37])[cH:16][cH:6]1)[n:30]1[cH:22][c:27]([N+:26](=[O:7])[O-:10])[c:28]2[cH:14][cH:32][c:19]([N+:35](=[O:33])[O-:34])[cH:3][c:31]21>>[O:1]=[S:36](=[O:2])([c:23]1[cH:5][cH:15][c:29]([CH3:37])[cH:16][cH:6]1)[N:30]1[CH:22]([CH2:13][c:4]2[n+:24]([CH3:8])[c:21]3[cH:11][cH:17][cH:18][cH:12][c:20]3[n:25]2[CH3:9])[C:27](=[N+:26]([O-:7])[O-:10])[c:28]2[cH:14][cH:32][c:19]([N+:35](=[O:33])[O-:34])[cH:3][c:31]21", "epd": [["LP-/Pi+", [24], [4, 24]], ["Pi-/Sigma+", [13, 4], [13, 22]], ["Pi-/Pi+", [22, 27], [27, 26]], ["Pi-/LP+", [26, 7], [7]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH2:1]1[CH2:7][c:21]2[c:6]3[c:22]([cH:14][n:20][cH:13]2)[CH2:8][CH2:2][CH2:18][N:4]3[CH2:17]1.[CH:3](=[O+:16][CH3:15])[c:19]1[cH:11][cH:9][cH:5][cH:10][cH:12]1>>[CH2:1]1[CH2:7][C:21]2=[CH:13][N:20]([CH:3]([O:16][CH3:15])[c:19]3[cH:11][cH:9][cH:5][cH:10][cH:12]3)[CH:14]=[C:22]3[C:6]2=[N+:4]([CH2:17]1)[CH2:18][CH2:2][CH2:8]3", "epd": [["LP-/Pi+", [4], [6, 4]], ["Pi-/Pi+", [21, 6], [13, 21]], ["Pi-/Sigma+", [20, 13], [20, 3]], ["Pi-/LP+", [3, 16], [16]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:3]1([O:24][Si:7]([CH3:25])([CH3:26])[CH3:27])=[C:23]([CH3:19])[CH2:12][CH2:6][O:22]1.[cH:1]1[cH:2][cH:14][cH:5][c:8]2[c:4]1[N+:18]([CH3:10])=[CH:13][C:11]2=[CH:9][c:17]1[cH:15][cH:20][cH:28][cH:21][cH:16]1>>[cH:1]1[cH:2][cH:14][cH:5][c:8]2[c:4]1[n:18]([CH3:10])[cH:13][c:11]2[CH:9]([c:17]1[cH:15][cH:20][cH:28][cH:21][cH:16]1)[C:23]1([CH3:19])[C:3](=[O+:24][Si:7]([CH3:25])([CH3:26])[CH3:27])[O:22][CH2:6][CH2:12]1", "epd": [["LP-/Pi+", [24], [3, 24]], ["Pi-/Sigma+", [23, 3], [23, 9]], ["Pi-/Pi+", [9, 11], [11, 13]], ["Pi-/LP+", [13, 18], [18]]]}
{"reaction_name": "Evans aldol addition", "rsmi": "[CH3:1][CH-:9][C:7](=[O:2])[N:12]1[CH2:6][CH2:11][O:5][CH2:8]1.[O:3]=[CH:10][CH3:4]>>[CH3:1][CH:9]([C:7](=[O:2])[N:12]1[CH2:6][CH2:11][O:5][CH2:8]1)[CH:10]([O-:3])[CH3:4]", "epd": [["LP-/Sigma+", [9], [9, 10]], ["Pi-/LP+", [3, 10], [3]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N+:5](=[CH:17][CH3:11])([O-:18])[O-:19].[O:1]([S:4][C:16]([F:8])([F:9])[F:10])[C:6]([CH3:14])([CH3:15])[c:20]1[cH:2][cH:12][cH:7][cH:13][cH:3]1>>[O-:1][C:6]([CH3:14])([CH3:15])[c:20]1[cH:2][cH:12][cH:7][cH:13][cH:3]1.[S:4]([C:16]([F:8])([F:9])[F:10])[CH:17]([N+:5](=[O:18])[O-:19])[CH3:11]", "epd": [["LP-/Pi+", [18], [5, 18]], ["Pi-/Sigma+", [17, 5], [17, 4]], ["Sigma-/LP+", [4, 1], [1]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH:1]1([C:3](=[O:20])[O:35][CH3:5])[CH2:6][CH2:24][CH2:21][N:30]1[C:22]1=[CH:9][CH2:2][CH2:25][CH2:11][CH2:4]1.[S:7]([c:12]1[cH:26][cH:16][cH:14][cH:19][cH:29]1)([C:23]([S:8]([c:13]1[cH:27][cH:17][cH:15][cH:18][cH:28]1)(=[O:31])=[O:32])=[CH2:10])(=[O:33])=[O:34]>>[CH:1]1([C:3](=[O:20])[O:35][CH3:5])[CH2:6][CH2:24][CH2:21][N+:30]1=[C:22]1[CH2:4][CH2:11][CH2:25][CH2:2][CH:9]1[CH2:10][C-:23]([S:7]([c:12]1[cH:26][cH:16][cH:14][cH:19][cH:29]1)(=[O:33])=[O:34])[S:8]([c:13]1[cH:27][cH:17][cH:15][cH:18][cH:28]1)(=[O:31])=[O:32]", "epd": [["LP-/Pi+", [30], [22, 30]], ["Pi-/Sigma+", [9, 22], [9, 10]], ["Pi-/LP+", [10, 23], [23]]]}
{"reaction_name": "Thia-Michael addition", "rsmi": "[O:2]=[C:23]1[N:6]([CH3:20])[C:22](=[O:8])[N:7]([CH3:21])[C:24](=[O:3])[C:15]1=[CH:17][c:9]1[cH:26][cH:4][c:16]([O:13][CH3:10])[cH:5][cH:27]1.[S:1]([c:11]1[cH:28][cH:18][cH:14][cH:19][cH:29]1)([O-:12])=[O:25]>>[S+:1]([c:11]1[cH:28][cH:18][cH:14][cH:19][cH:29]1)([O-:12])([CH:17]([c:9]1[cH:26][cH:4][c:16]([O:13][CH3:10])[cH:5][cH:27]1)[c:15]1[c:23]([O-:2])[n:6]([CH3:20])[c:22](=[O:8])[n:7]([CH3:21])[c:24]1=[O:3])=[O:25]", "epd": [["LP-/Sigma+", [1], [1, 17]], ["Pi-/Pi+", [17, 15], [15, 23]], ["Pi-/LP+", [23, 2], [2]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:1]([S:10][C:24]([F:17])([F:18])[F:19])[C:13]([CH3:22])([CH3:23])[c:33]1[cH:2][cH:20][cH:14][cH:21][cH:3]1.[cH:4]1[cH:8][c:29]([CH:6]=[C:34]2[CH:30]=[CH:15][C:27](=[N+:28]([O-:25])[O-:26])[CH:16]=[CH:31]2)[cH:9][cH:5][c:11]1[N+:32](=[O:7])[O-:12]>>[O-:1][C:13]([CH3:22])([CH3:23])[c:33]1[cH:2][cH:20][cH:14][cH:21][cH:3]1.[cH:4]1[cH:8][c:29]([CH:6]([S:10][C:24]([F:17])([F:18])[F:19])[c:34]2[cH:30][cH:15][c:27]([N+:28](=[O:25])[O-:26])[cH:16][cH:31]2)[cH:9][cH:5][c:11]1[N+:32](=[O:7])[O-:12]", "epd": [["LP-/Pi+", [25], [28, 25]], ["Pi-/Pi+", [27, 28], [15, 27]], ["Pi-/Pi+", [30, 15], [34, 30]], ["Pi-/Sigma+", [6, 34], [6, 10]], ["Sigma-/LP+", [10, 1], [1]]]}
